US08871361B2
N-phenyl-3-(quinolin-2-yl)aniline (3 g, 10.12 mmol), sodium tert-butoxide (1.555 g, 16.20 mmol), 2-(3-bromophenyl)-1-(2,6-diisopropylphenyl)-1H-imidazole (4.07 g, 10.63 mmol), Pd2dba3 (0.232 g, 0.253 mmol) and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (S-Phos) (0.415 g, 1.012 mmol) were charged into the reaction vessel with 250 mL of toluene. This mixture was evacuated and back-filled with nitrogen. The reaction mixture was then heated at reflux for 20 h. The reaction mixture was cooled to room temperature then was diluted with 200 mL of water. The toluene layer was separated and the aqueous was extracted with 100 mL of toluene. The organic extracts were combined and removed under vacuum. The crude residue was passed through a silica gel column using 5-25% ethyl acetate/DCM yielding 3-(1-(2,6-diisopropylphenyl)-1H-imidazol-2-yl)-N-phenyl-N-(3-(quinolin-2-yl)phenyl)aniline (5.5 g, 91% yield) as a yellow foamy solid.

reactant | N-phenyl-3-(quinolin-2-yl)aniline | 10.12 mmol, 3 g | C1(=CC=CC=C1)NC1=CC(=CC=C1)C1=NC2=CC=CC=C2C=C1 | C21H16N2
reactant | sodium tert-butoxide | 16.20 mmol, 1.555 g | CC(C)([O-])C.[Na+]
reactant | 2-(3-bromophenyl)-1-(2,6-diisopropylphenyl)-1H-imidazole | 10.63 mmol, 4.07 g | BrC=1C=C(C=CC1)C=1N(C=CN1)C1=C(C=CC=C1C(C)C)C(C)C | C21H23BrN2
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 1.012 mmol, 0.415 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | Pd2dba3 | 0.253 mmol, 0.232 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(1-(2,6-diisopropylphenyl)-1H-imidazol-2-yl)-N-phenyl-N-(3-(quinolin-2-yl)phenyl)aniline | 5.5 g, 91% yield | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(=NC=C1)C=1C=C(N(C2=CC(=CC=C2)C2=NC3=CC=CC=C3C=C2)C2=CC=CC=C2)C=CC1 | C42H38N4
